US04057624
Acrylamide/lauryl acrylate copolymer (1:3 molar ratio)
179.75 gm (0.75 mol) of lauryl acrylate were dissolved in 1610 gm of methanol. To this were added 2 gm of azoisobutyronitrile as catalyst. The solution was heated then to 60° C and maintained at that temperature for 6 hours with agitation. During the first two hours of heating, 17.75 gm (0.25 mol) of acrylamide dissolved in 160 gm of methanol were slowly added drop by drop. The copolymer precipitated during the course of the reaction. After the reaction was complete, the solvent was decanted off and the polymer was washed a few times with methanol. The product was 177 gm (90% of theory) of acrylamide/lauryl acrylate copolymer (1:3 molar ratio).

reactant | lauryl acrylate | 0.75 mol, 179.75 gm | C(C=C)(=O)OCCCCCCCCCCCC | C15H28O2
reactant | acrylamide | 0.25 mol, 17.75 gm | C(C=C)(=O)N | C3H5NO
solvent | methanol | 1610 gm | CO | CH4O
solvent | methanol | 160 gm | CO | CH4O
product | Acrylamide lauryl acrylate | C(C=C)(=O)N.C(C=C)(=O)OCCCCCCCCCCCC | InChI=1S/C15H28O2.C3H5NO/c1-3-5-6-7-8-9-10-11-12-13-14-17-15(16)4-2;1-2-3(4)5/h4H,2-3,5-14H2,1H3;2H,1H2,(H2,4,5)
